US06936612B2
8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.60 g, 1.79 mmol) and 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine (0.438 g, 2.47 mmol) were heated to reflux in toluene (6 mL) for 16 hours. The reaction mixture was cooled to room temperature and the precipitate that formed was filtered off and washed with toluene (2×4 mL) to give 8-cyclopentyl-6-ethoxymethyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (0.122 g, 15.2%). MS (APCI) Calc'd for M+1: 449.3. Found: 449.3. Anal. Calc'd for C25H32N6O2: C, 66.94; H, 7.19; N, 18.74. Found: C, 66.72; H, 7.13; N, 18.57.

reactant | 8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.79 mmol, 0.60 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COCC)=O | C16H21N3O3S
reactant | 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine | 2.47 mmol, 0.438 g | N1(CCCCC1)C=1C=NC(=CC1)N | C10H15N3
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 8-cyclopentyl-6-ethoxymethyl-2-(3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.122 g, 15.2% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CCCCC2)COCC)=O | C25H32N6O2
